US07608716B2
To a solution of 3-benzyl-5-(3-nitrophenyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4 (5H)-one (98 mg, 0.25 mmol) in conc. hydrochloric acid (7 ml) was added tin chloride.2H2O (500 mg, 5-fold weights), and the mixture was stirred at room temperature for 1.5 hour, admixed with water, then treated with sodium carbonate to make it to pH8-9, and extracted with chloroform 8 times. The organic layer was dried over anhydrous magnesium sulfate, and evaporated to give 5-(3-aminophenyl)-3-benzyl-1H-pyrazolo[4,3-c][1,8]naphthyridin-4 (5H)-one (63 mg, 70%).

reactant | 3-benzyl-5-(3-nitrophenyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4 (5H)-one | 0.25 mmol, 98 mg | C(C1=CC=CC=C1)C1=NNC2=C1C(N(C=1N=CC=CC21)C2=CC(=CC=C2)[N+](=O)[O-])=O | C22H15N5O3
reactant | tin chloride | [Sn](Cl)(Cl)(Cl)Cl
reactant | water | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 7 ml | Cl | ClH
product | 5-(3-aminophenyl)-3-benzyl-1H-pyrazolo[4,3-c][1,8]naphthyridin-4 (5H)-one | 63 mg, 70% | NC=1C=C(C=CC1)N1C(C2=C(C=3C=CC=NC13)NN=C2CC2=CC=CC=C2)=O | C22H17N5O
